US08557922B2
8.61 g (0.0347 Mol) of 4-(4,4,4-trifluorobutoxy)benzoic acid are suspended in 100 ml of dichloromethane. 0.42 g (0.0035 Mol) of 4-Dimethylaminopyridine are added at room temperature. 7.98 g (0.04163 Mol) of N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (EDC hydrochloride) are added at 0° C. The solution is stirred for 1 h at 0° C. 15.90 g (0.0347 Mol) of 6-[((2E)-{4-hydroxyphenyl}prop-2-enoyl)oxy]hexyl 3,5-dinitrobenzoate dissolved in 50 ml of dichloromethane are added dropwise to the solution at 0° C. and allowed to stir at room temperature overnight. After 22 hours at room temperature the reaction mixture is partitioned between dichloromethane and water. The mixture is acidified with HCl 25%. The organic phase is washed repeatedly with water, dried over sodium sulphate, filtered and concentrated by rotary evaporation. Chromatography of the residue on 600 g silica gel using toluene:ethyl acetate(99:1) as eluant and crystallization from ethyl acetate/hexane (1:2) yielded 18.82 g (79%) of 6-{[((2E)-3-{4-[(4-(4,4,4-trifluorobutoxy)benzoyl)oxy]phenyl}prop-2-enoyl)oxy]}hexyl 3,5-dinitrobenzoate as white crystals.

reactant | 4-(4,4,4-trifluorobutoxy)benzoic acid | 0.0347 Mol, 8.61 g | FC(CCCOC1=CC=C(C(=O)O)C=C1)(F)F | C11H11F3O3
reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.04163 Mol, 7.98 g | Cl.CN(CCCN=C=NCC)C
reactant | 6-[((2E)-{4-hydroxyphenyl}prop-2-enoyl)oxy]hexyl 3,5-dinitrobenzoate | 0.0347 Mol, 15.90 g | [N+](=O)([O-])C=1C=C(C(=O)OCCCCCCOC(\C=C\C2=CC=C(C=C2)O)=O)C=C(C1)[N+](=O)[O-] | C22H22N2O9
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | 4-Dimethylaminopyridine | 0.0035 Mol, 0.42 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 6-{[((2E)-3-{4-[(4-(4,4,4-trifluorobutoxy)benzoyl)oxy]phenyl}prop-2-enoyl)oxy]}hexyl 3,5-dinitrobenzoate | 18.82 g, 79% | [N+](=O)([O-])C=1C=C(C(=O)OCCCCCCOC(\C=C\C2=CC=C(C=C2)OC(C2=CC=C(C=C2)OCCCC(F)(F)F)=O)=O)C=C(C1)[N+](=O)[O-] | C33H31F3N2O11
